US06469224B1
The reaction was carried out completely in the same manner as in Example 1, except that tris[tris(dimethylamino)phosphoranylideneamino](dioctylamino)phosphoranylideneamino phosphonium ethoxide: [(Me2N)3P═N]3P+{N═P[N(C8H17)2]}, C2H5O− was used instead of tetrakis[tris(dimethylamino)phosphoranylideneamino]phosphonium methoxide in Example 1. Objective ethoxybenzene was produced in the yield of 86%.

reactant | tris[tris(dimethylamino)phosphoranylideneamino](dioctylamino)phosphoranylideneamino phosphonium ethoxide | [O-]CC.CN(C)P(N(C)C)(N(C)C)=N[P+](N=[PH2]N(CCCCCCCC)CCCCCCCC)(N=P(N(C)C)(N(C)C)N(C)C)N=P(N(C)C)(N(C)C)N(C)C
solvent | (Me2N)3P | P(N(C)C)(N(C)C)N(C)C | C6H18N3P
product | ethoxybenzene | yield of 86% | C(C)OC1=CC=CC=C1 | C8H10O
